US08293923B2
Step 2: 2-[5-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino]-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-benzoimidazole-5-carboxylic acid cyclopentylamide
N,N-Diisopropylethylamine (19.6 uL, 0.000112 mol) was added to a solution of 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylic acid (26.8 mg, 0.0000375 mol), 2-chloro-1-methylpyridinium iodide (19.2 mg, 0.0000750 mol) and 1-hydroxybenzotriazole (10.1 mg, 0.0000750 mol) tetrahydrofuran (0.40 mL). The mixture was stirred at room temperature for 20 minutes. Cyclopentanamine (0.000112 mol) was then added and the mixture stirred for 2 hours. The mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate and purified by flash chromatography.

reactant | N,N-Diisopropylethylamine | 0.000112 mol, 19.6 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylic acid | 0.0000375 mol, 26.8 mg | BrC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)NC1=NC2=C(N1C1CCC(CC1)O[Si](C)(C)C(C)(C)C)C=CC(=C2)C(=O)O | C33H48BrN5O4Si2
reactant | 2-chloro-1-methylpyridinium iodide | 0.0000750 mol, 19.2 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 1-hydroxybenzotriazole | 0.0000750 mol, 0.40 mL, 10.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Cyclopentanamine | 0.000112 mol | C1(CCCC1)N | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[5-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-3-ylamino]-1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-benzoimidazole-5-carboxylic acid cyclopentylamide | C1(CCCC1)NC(=O)C1=CC2=C(N(C(=N2)NC2=NN(C3=CC=C(C=C23)Br)COCC[Si](C)(C)C)C2CCC(CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C38H57BrN6O3Si2
